US06359145B1
Methyl 4-[3-(tert-butyldimethylsilyloxy)phenyl]-2-oxo-butyrate was prepared as a yellow oil from 3-(tert-butyldimethylsilyloxy) iodobenzene and methyl 2-hydroxy-3-butenoate.

reactant | 3-(tert-butyldimethylsilyloxy) iodobenzene | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)I | C12H19IOSi
reactant | methyl 2-hydroxy-3-butenoate | OC(C(=O)OC)C=C | C5H8O3
product | Methyl 4-[3-(tert-butyldimethylsilyloxy)phenyl]-2-oxo-butyrate | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)CCC(C(=O)OC)=O | C17H26O4Si
